US07786046B2
4.1.) Ethyl 4-chloro-3-hydroxy-5-phenyl-2-(4-fluoro-2-trifluoromethylbenzoylamino)pent-4-enoate (Tab. 2, No. 2.6)
At −75° C., 5.0 g (0.0170 mol) of ethyl (4-fluoro-2-trifluoromethylbenzoylamino)acetate dissolved in THF were added dropwise to 25.0 ml (0.050 mol) of a 2M solution of lithium diisopropylamide in THF. After 1 h at −75° C., 3.50 g (0.021 mol) of 2-chlorocinnamaldehyde dissolved in THF were added dropwise, and the mixture was stirred at −75° C. for 1 h. Saturated NH4Cl solution was added dropwise and the mixture was warmed to RT and extracted with CH2Cl2. The combined organic phases were washed and dried, and the solvent was removed. The residue was purified chromatographically (SiO2, cyclohexane/ethyl acetate). This gave 7.5 g (96% of theory) of the title compound as a colorless solid (diastereomer mixture) which was reacted further without further purification.

reactant | ethyl (4-fluoro-2-trifluoromethylbenzoylamino)acetate | 0.0170 mol, 5.0 g | FC1=CC(=C(C(=O)NCC(=O)OCC)C=C1)C(F)(F)F | C12H11F4NO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chlorocinnamaldehyde | 0.021 mol, 3.50 g | ClC1=C(C=CC=O)C=CC=C1 | C9H7ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 4-chloro-3-hydroxy-5-phenyl-2-(4-fluoro-2-trifluoromethylbenzoylamino)pent-4-enoate | ClC(C(C(C(=O)OCC)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O)O)=CC1=CC=CC=C1 | C21H18ClF4NO4
